US05866592
Ethyl-N-(N-(4-(3-thiazolidinoimidoyl)-2-fluorobenzoyl)-β-ethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetate
The same procedure as in Example 45 was performed with ethyl-N-(N-(4-cyano-2-fluorobenzoyl)-β-ethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetate (1.48 g, 3.3 mmol) by using thiazolidine (2.5 ml) as an amine to yield the titled compound (314 mg, 23%).

reactant | ethyl-N-(N-(4-cyano-2-fluorobenzoyl)-β-ethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetate | 3.3 mmol, 1.48 g | C(C)OC(CC1CCN(CC1)C(C(C(NC(C1=C(C=C(C=C1)C#N)F)=O)CC)(C)C)=O)=O | C24H32FN3O4
reactant | thiazolidine | 2.5 ml | S1CNCC1 | C3H7NS
product | Ethyl-N-(N-(4-(3-thiazolidinoimidoyl)-2-fluorobenzoyl)-β-ethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetate | 314 mg, 23% | C(C)OC(CC1CCN(CC1)C(C(C(NC(C1=C(C=C(C=C1)C(=N)N1CSCC1)F)=O)CC)(C)C)=O)=O | C27H39FN4O4S
